US03953415
2.5 g. of palladium-on-carbon are added to the solution of 17.2 g. (32 mmoles) of Z-30-31-OtBu in 350 ml. of methanol, and gaseous hydrogen is bubbled into the mixture for 1 hour. The catalyst is removed by filtration, the filtrate is evaporated to dryness under reduced pressure, the solid residue is mixed with petroleum ether, and the mixture is filtered. 10.97 g. (83.4 %) of H-Glu(OtBu)-Ser(tBu)-OtBu are obtained. M.p.: 78°-82° C, Rf11 = 0.4.

reactant | Z-Glu(OtBu)-Ser(tBu)-OtBu | 32 mmoles | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C28H44N2O8
catalyst | palladium-on-carbon | [Pd] | Pd
product | H-Glu(OtBu)-Ser(tBu)-OtBu | 83.4 % | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C | C20H38N2O6
